US07417247B2
5-Bromo-1,2,3,4-tetraphenyl-5-p-methoxyphenylcyclopenta-1,3-diene
54.19 g (0.11 mol) of 1,2,3,4-tetraphenyl-5-p-methoxyphenylcyclopenta-1,3-dien-5-ol were suspended in 300 ml of toluene. 74 g (0.6 mol) of acetyl bromide were added dropwise in the course of 20 minutes at room temperature and the reaction batch was then refluxed for 2 hours. Toward the end of the reaction, 2 ml of methanol were also added dropwise. Excess acetyl bromide and toluene were distilled off in vacuo. The remaining oil crystallized after addition of 100 ml of petroleum ether. The orange precipitate was filtered off with suction, rinsed with petroleum ether and dried. The product was used for the further syntheses. Analytically pure orange product was obtained by recrystallization from toluene. (Yield: 54. 32 g (89%); elemental analysis for C36H27OBr: found: C, 77.06%, H, 4.90%. calculated: C, 77.84%, H, 4.90%).

reactant | 1,2,3,4-tetraphenyl-5-p-methoxyphenylcyclopenta-1,3-dien-5-ol | 0.11 mol, 54.19 g | C1(=CC=CC=C1)C1=C(C(=C(C1(O)C1=CC=C(C=C1)OC)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28O2
reactant | acetyl bromide | 0.6 mol, 74 g | C(C)(=O)Br | C2H3BrO
reactant | methanol | 2 ml | CO | CH4O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-1,2,3,4-tetraphenyl-5-p-methoxyphenylcyclopenta-1,3-diene | BrC1(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C36H27BrO
